Name:  ___ /DMD                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
S/p ERCP
 
Major Surgical or Invasive Procedure:
ERCP on ___. Please see results section for full details of 
the procedure. 
 
History of Present Illness:
HPI(4): Dr. ___ is a ___ male with the past medical 
history noted below who presents status post ERCP for routine 
monitoring.  The patient reports that he was in his usual state 
of health but over the last several months he has 3 episodes of 
extreme indigestion.  Reports that the last episode of 
indigestion led to uncontrollable shaking that lasted for about 
30 minutes.  He reported this to his primary care doctor 
rechecks labs and ultimately recommended a right upper quadrant 
ultrasound.  The right upper quadrant ultrasound was concerning 
for biliary obstruction and so he went forward with an MRCP 
which showed 2 stones in the distal common bile duct.  Given 
this he was referred to ERCP for ERCP with sphincterotomy and 
stone extraction.

He presented on ___ as an outpatient for 
scheduled ERCP.  The procedure was uncomplicated and 2 stones 
were extracted.  A sphincterotomy was performed.  Following the 
procedure the patient reports that he is feeling well.  He has 
some mild epigastric abdominal pain when palpated but otherwise 
feels well.  He reports there is hungry and actually would be 
interested in trying to eat something.  He denies any nausea or 
vomiting.  He reports that he would like his home oxycodone as 
well as his home finasteride which he uses for his BPH.

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative. 

 
Past Medical History:
Lower extremity edema controlled with as needed Lasix
BPH
Chronic back pain and follows at the known ___ 
___
Macular degeneration of his left eye for which he receives 
injection at ___ eye and ear.
 
Social History:
___
Family History:
He denies any family ___ history of hepatobiliary process.  He 
does report a positive family history of back pain and prostate 
problems and multiple family members.
 
Physical Exam:
VITALS: 97.8 PO, 135/65, 568, 18, 96 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, mild tenderness to palpation in 
the epigastric region.  No rebound or guarding.  Bowel sounds 
present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Moves all extremities, strength grossly full and symmetric 
bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
Admission Labs:

___ 02:00PM BLOOD WBC-6.6 RBC-3.99* Hgb-13.2* Hct-38.8* 
MCV-97 MCH-33.1* MCHC-34.0 RDW-13.9 RDWSD-50.0* Plt ___
___ 02:00PM BLOOD ___
___ 02:00PM BLOOD UreaN-12 Creat-0.8 Na-140 K-4.2 Cl-98 
HCO3-21* AnGap-21*
___ 02:00PM BLOOD ALT-107* AST-82* AlkPhos-704* Amylase-32 
TotBili-1.7*
___ 02:00PM BLOOD Lipase-17
___ 02:00PM BLOOD Mg-2.0

ERCP Report:
Medications: Monitored care anesthesia 
Indomethacin 100mg PR
total dose-226.93, tdap-59.923, total time-3.5min 
 
Procedure: The procedure, indications, preparation and potential 
complications were explained to the patient, who indicated his 
understanding and signed the corresponding consent forms. A 
physical exam was performed. The patient was administered MAC 
anesthesia. The patient was placed in the left lateral decubitus 
position and an endoscope was introduced and advanced under 
direct visualization until the cecum was reached. Careful 
visualization was performed. The procedure was not difficult. 
The quality of the preparation was good. The patient tolerated 
the procedure well. There were no complications. 
Findings: 
Esophagus: Limited exam of the esophagus was normal 
 
Stomach: Limited exam of the stomach was normal 
 
Duodenum: Limited exam of the duodenum was normal 
 
Major Papilla: The major papilla appeared normal.  

Cannulation:  Cannulation of the biliary duct was successful and 
deep with a sphincterotome using a free-hand technique. Contrast 
medium was injected resulting in complete opacification. The 
procedure was not difficult.  
 

Biliary Tree/Fluoroscopic interpretation: The scout film was 
normal. The major papilla appeared normal. The bile duct was 
successfully cannulated using a Rx sphincterotome preloaded with 
0.035in guidewire. Contrast was injected and there was brisk 
flow through the ducts. Contrast extended to the entire biliary 
tree. Contrast injection revealed two large filling defects in 
the higher third CBD consistent with stones as well as a CBD, 
CHD and IH duct dilatation. The CBD was measured at 11mm. A 
biliary sphincterotomy was successfully performed with the 
sphincterotome. There was no post-sphincterotomy bleeding. The 
sphincterotome was exchanged for a CRE balloon. A biliary 
sphincteroplasty was successfully performed using a 10-12mm CRE 
balloon up to 12mm. The biliary tree was then swept with a 
9-12mm balloon starting at the bifurcation. Two large stones and 
sludge were successfully removed. The CBD and CHD were swept 
repeatedly until no further stones were seen. The final 
occlusion cholangiogram showed no evidence of filling defects in 
the CBD. Excellent bile and contrast drainage was seen 
endoscopically and fluoroscopically.  

Pancreas: The PD was not injected or cannulated. I supervised 
the acquisition and interpretation of the fluoroscopic images. 
The quality of the fluoroscopic images was good.  

Impression: •The scout film was normal. The major papilla 
appeared normal. 
•The bile duct was successfully cannulated using a Rx 
sphincterotome preloaded with 0.035in guidewire. Contrast was 
injected and there was brisk flow through the ducts. Contrast 
extended to the entire biliary tree. 
•Contrast injection revealed two large filling defects in the 
higher third CBD consistent with stones as well as a CBD, CHD 
and IH duct dilatation. The CBD was measured at 11mm. 
•A biliary sphincterotomy was successfully performed with the 
sphincterotome. There was no post-sphincterotomy bleeding. 
•The sphincterotome was exchanged for a CRE balloon. A biliary 
sphincteroplasty was successfully performed using a 10-12mm CRE 
balloon up to 12mm. 
•The biliary tree was then swept with a 9-12mm balloon starting 
at the bifurcation. Two large stones and sludge were 
successfully removed. 
•The CBD and CHD were swept repeatedly until no further stones 
were seen. The final occlusion cholangiogram showed no evidence 
of filling defects in the CBD.
•Excellent bile and contrast drainage was seen endoscopically 
and fluoroscopically. 
 

Recommendations: •Follow for response and complications. If any 
abdominal pain, fever, jaundice, gastrointestinal bleeding 
please call Advanced Endoscopy Fellow on call ___ 
(___).
•Admit to hospital for monitoring.
•NPO overnight with aggressive IV hydration with LR at 200 
cc/hr.
•If no abdominal pain in the morning, advance diet to clear 
liquids and then advance as tolerated.
•Continue with antibiotics - Ciprofloxacin 500mg BID x 3 days.
•Follow-up with referring physician as previously scheduled.
 

 
Brief Hospital Course:
Dr. ___ is a ___ male with the past medical history 
and findings noted above who presents for routine monitoring 
status post ERCP for choledocholithiasis.

ACUTE/ACTIVE PROBLEMS:
# S/p ERCP for choledocholithiasis: Patient on outpatient 
imaging suggestive of 2 stones in the common bile duct.  Status 
post ERCP with sphincterotomy and extraction of the 2 stones.  
Admitted to medical service for further evaluation and 
postprocedural monitoring. He did well post procedurally and had 
no complication. Medically stable for discharge. He will need 
Ciprofloxacin 500 mg p.o. every 12 hours ×3 days post procedure. 
No NSAIDs, aspirin, or anticoagulation for 5 days.  This was 
discussed with the patient.  Only medication that he takes on a 
regular basis is Advil.  This was discussed and the patient 
should not take until 5 days postprocedural.  The patient voiced 
understanding.

CHRONIC/STABLE PROBLEMS:
#BPH:
-Continued home tamsulosin and finasteride

#Chronic back pain:
-Continued home oxycodone 2.5 mg p.o. every 4 hours as needed 
back pain
-Hold home Advil given ERCP with sphincterotomy.  Will replace 
with as needed acetaminophen for the next 5 days.

#Macular degeneration:
-Outpatient follow-up at ___ and Ear for 
injections

#Lower extremity edema: None present on exam.  Patient takes as 
needed Lasix.  
- Held home Lasix while in the hospital. Can resume on an 
outpatient basis. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO QHS 
2. Furosemide 40 mg PO EVERY 3 DAYS 
3. OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN Pain - 
Moderate 
4. Tamsulosin 0.8 mg PO QHS 
5. Multivitamins W/minerals 1 TAB PO DAILY 
6. Omeprazole 20 mg PO QHS 
7. Ibuprofen 400 mg PO Q6H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 6 Doses 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*6 Tablet Refills:*0 
2.  Finasteride 5 mg PO QHS  
3.  Furosemide 40 mg PO EVERY 3 DAYS  
4.  Multivitamins W/minerals 1 TAB PO DAILY  
5.  Omeprazole 20 mg PO QHS  
6.  OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN Pain - 
Moderate  
7.  Tamsulosin 0.8 mg PO QHS  
8. HELD- Ibuprofen 400 mg PO Q6H:PRN Pain - Moderate  This 
medication was held. Do not restart Ibuprofen until 5 days 
following your procedure. OK to resume ___. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
S/p ERCP for choledocolethiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dr ___,

___ was a pleasure taking care of you while you were in the 
hospital. You were admitted following a successful ERCP 
(procedure to extract the stone on your bile duct). You did well 
post procedure and are stable for discharge. Please take your 
medications as directed. Please do not take any NSAIDS 
(ibuprofen, aspirin, naproxen ect...) for the next 5 days. 
 
Followup Instructions:
___